* Full-block native-element LVS reference for dac_top_floorplan,
* derived from dac/schematic/cap_array.sch (8x nand2 + 8x unit_switch
* drivers + inv1 + tgate + binary-weighted cap_mim array).
* Device cards copied verbatim from the cell-level LVS-proven refs:
*   nand2_ref.spice, unit_switch_bit0/1_6/7_ref.spice, inv1_ref.spice,
*   tgate_ref.spice, cap_array_caps_only_ref.spice.
* Native M/C elements are MANDATORY (X-subckt calls silently drop to
* 0 devices in gf180mcu.lvs -- see run_dac_lvs.sh header).
* Cap bottom plates connect to the internal driver-VOUT rails RAIL<n>,
* NOT the digital B<n> ports. Ground is the schematic global "0".
*
* NAND nfet stack order (2026-07-19 first-compare finding): the physical
* nand2 cell gates the GROUND-side series nfet with pin A and the Y-side
* nfet with pin B (see lvs_run_nand2_clean/nand2_lvs.cir M$3/M$4) -- the
* mirror of nand2_ref.spice. Logically identical (NAND is input-
* symmetric) but LVS cannot permute the fixed top-level nets B<n>/
* SAMPLE_N, so this reference encodes the as-built order: outer nfet
* gate = SAMPLE_N, inner nfet gate = B<n>.
*
* Dummy handling: 69 dummy caps appended, both plates on the global "0"
* ground (the DAC-6 intent). The as-built layout ties all 69 dummies into
* one M3 ring frame which is strapped to the "0" spine at top level
* (route_dummy_ring_gnd in gen_dac_top_floorplan.py, 2026-07-19; the
* earlier first-compare state had the ring floating as isolated net $6
* and modelled it here as a dedicated DUMMYRING net -- now restored to 0).
* Active 255 + dummy 69 = 324 caps.
.subckt dac_top_floorplan VIN VDD SAMPLE B0 B1 B2 B3 B4 B5 B6 B7 DAC_TOP
* --- bit 0: nand2 (a=B0, b=SAMPLE_N, y=B0NAND) + driver + 1 caps
MNP0A B0NAND B0 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP0B B0NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN0B B0NAND SAMPLE_N NMID0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN0A NMID0 B0 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP0 RAIL0 B0NAND VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1
MDN0 RAIL0 B0NAND 0 0 nfet_03v3 L=0.28u W=0.42u nf=1
* --- bit 1: nand2 (a=B1, b=SAMPLE_N, y=B1NAND) + driver + 2 caps
MNP1A B1NAND B1 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP1B B1NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN1B B1NAND SAMPLE_N NMID1 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN1A NMID1 B1 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP1 RAIL1 B1NAND VDD VDD pfet_03v3 L=0.28u W=1.68u nf=1
MDN1 RAIL1 B1NAND 0 0 nfet_03v3 L=0.28u W=0.84u nf=1
* --- bit 2: nand2 (a=B2, b=SAMPLE_N, y=B2NAND) + driver + 4 caps
MNP2A B2NAND B2 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP2B B2NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN2B B2NAND SAMPLE_N NMID2 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN2A NMID2 B2 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP2 RAIL2 B2NAND VDD VDD pfet_03v3 L=0.28u W=3.36u nf=1
MDN2 RAIL2 B2NAND 0 0 nfet_03v3 L=0.28u W=1.68u nf=1
* --- bit 3: nand2 (a=B3, b=SAMPLE_N, y=B3NAND) + driver + 8 caps
MNP3A B3NAND B3 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP3B B3NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN3B B3NAND SAMPLE_N NMID3 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN3A NMID3 B3 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP3 RAIL3 B3NAND VDD VDD pfet_03v3 L=0.28u W=6.72u nf=1
MDN3 RAIL3 B3NAND 0 0 nfet_03v3 L=0.28u W=3.36u nf=1
* --- bit 4: nand2 (a=B4, b=SAMPLE_N, y=B4NAND) + driver + 16 caps
MNP4A B4NAND B4 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP4B B4NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN4B B4NAND SAMPLE_N NMID4 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN4A NMID4 B4 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP4 RAIL4 B4NAND VDD VDD pfet_03v3 L=0.28u W=13.44u nf=1
MDN4 RAIL4 B4NAND 0 0 nfet_03v3 L=0.28u W=6.72u nf=1
* --- bit 5: nand2 (a=B5, b=SAMPLE_N, y=B5NAND) + driver + 32 caps
MNP5A B5NAND B5 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP5B B5NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN5B B5NAND SAMPLE_N NMID5 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN5A NMID5 B5 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP5 RAIL5 B5NAND VDD VDD pfet_03v3 L=0.28u W=26.88u nf=1
MDN5 RAIL5 B5NAND 0 0 nfet_03v3 L=0.28u W=13.44u nf=1
* --- bit 6: nand2 (a=B6, b=SAMPLE_N, y=B6NAND) + driver + 64 caps
MNP6A B6NAND B6 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP6B B6NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN6B B6NAND SAMPLE_N NMID6 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN6A NMID6 B6 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP6 RAIL6 B6NAND VDD VDD pfet_03v3 L=0.28u W=53.76u nf=1
MDN6 RAIL6 B6NAND 0 0 nfet_03v3 L=0.28u W=26.88u nf=1
* --- bit 7: nand2 (a=B7, b=SAMPLE_N, y=B7NAND) + driver + 128 caps
MNP7A B7NAND B7 VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNP7B B7NAND SAMPLE_N VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MNN7B B7NAND SAMPLE_N NMID7 0 nfet_03v3 L=0.3u W=1.7u nf=1
MNN7A NMID7 B7 0 0 nfet_03v3 L=0.3u W=1.7u nf=1
MDP7A RAIL7 B7NAND VDD VDD pfet_03v3 L=0.28u W=53.76u nf=1
MDP7B RAIL7 B7NAND VDD VDD pfet_03v3 L=0.28u W=53.76u nf=1
MDN7 RAIL7 B7NAND 0 0 nfet_03v3 L=0.28u W=53.76u nf=1
C1 RAIL0 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C2 RAIL1 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C3 RAIL1 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C4 RAIL2 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C5 RAIL2 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C6 RAIL2 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C7 RAIL2 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C8 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C9 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C10 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C11 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C12 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C13 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C14 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C15 RAIL3 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C16 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C17 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C18 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C19 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C20 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C21 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C22 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C23 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C24 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C25 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C26 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C27 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C28 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C29 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C30 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C31 RAIL4 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C32 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C33 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C34 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C35 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C36 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C37 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C38 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C39 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C40 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C41 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C42 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C43 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C44 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C45 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C46 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C47 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C48 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C49 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C50 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C51 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C52 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C53 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C54 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C55 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C56 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C57 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C58 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C59 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C60 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C61 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C62 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C63 RAIL5 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C64 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C65 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C66 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C67 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C68 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C69 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C70 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C71 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C72 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C73 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C74 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C75 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C76 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C77 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C78 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C79 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C80 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C81 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C82 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C83 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C84 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C85 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C86 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C87 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C88 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C89 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C90 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C91 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C92 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C93 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C94 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C95 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C96 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C97 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C98 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C99 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C100 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C101 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C102 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C103 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C104 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C105 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C106 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C107 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C108 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C109 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C110 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C111 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C112 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C113 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C114 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C115 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C116 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C117 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C118 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C119 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C120 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C121 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C122 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C123 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C124 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C125 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C126 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C127 RAIL6 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C128 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C129 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C130 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C131 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C132 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C133 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C134 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C135 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C136 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C137 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C138 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C139 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C140 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C141 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C142 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C143 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C144 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C145 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C146 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C147 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C148 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C149 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C150 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C151 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C152 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C153 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C154 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C155 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C156 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C157 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C158 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C159 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C160 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C161 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C162 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C163 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C164 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C165 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C166 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C167 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C168 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C169 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C170 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C171 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C172 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C173 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C174 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C175 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C176 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C177 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C178 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C179 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C180 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C181 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C182 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C183 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C184 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C185 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C186 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C187 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C188 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C189 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C190 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C191 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C192 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C193 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C194 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C195 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C196 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C197 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C198 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C199 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C200 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C201 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C202 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C203 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C204 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C205 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C206 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C207 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C208 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C209 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C210 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C211 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C212 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C213 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C214 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C215 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C216 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C217 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C218 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C219 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C220 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C221 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C222 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C223 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C224 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C225 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C226 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C227 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C228 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C229 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C230 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C231 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C232 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C233 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C234 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C235 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C236 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C237 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C238 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C239 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C240 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C241 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C242 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C243 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C244 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C245 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C246 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C247 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C248 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C249 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C250 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C251 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C252 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C253 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C254 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C255 RAIL7 DAC_TOP cap_mim_2f0fF W=5e-6 L=5e-6 M=1
* --- globals: inv1 (SAMPLE -> SAMPLE_N) + top-plate tgate
MIP SAMPLE_N SAMPLE VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1
MIN SAMPLE_N SAMPLE 0 0 nfet_03v3 L=0.3u W=0.85u nf=1
MTN VIN SAMPLE DAC_TOP 0 nfet_03v3 L=0.28u W=4u nf=1
MTP DAC_TOP SAMPLE_N VIN VDD pfet_03v3 L=0.28u W=8u nf=1
* --- 69 dummy caps, both plates grounded (see header)
C256 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C257 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C258 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C259 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C260 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C261 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C262 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C263 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C264 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C265 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C266 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C267 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C268 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C269 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C270 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C271 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C272 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C273 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C274 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C275 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C276 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C277 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C278 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C279 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C280 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C281 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C282 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C283 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C284 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C285 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C286 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C287 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C288 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C289 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C290 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C291 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C292 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C293 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C294 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C295 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C296 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C297 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C298 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C299 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C300 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C301 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C302 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C303 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C304 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C305 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C306 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C307 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C308 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C309 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C310 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C311 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C312 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C313 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C314 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C315 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C316 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C317 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C318 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C319 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C320 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C321 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C322 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C323 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
C324 0 0 cap_mim_2f0fF W=5e-6 L=5e-6 M=1
.ends dac_top_floorplan
